US06087357
A mixture of (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-fluorobenzyl)piperazine (7.92 g), ammonium formate (2.38 g) and 10% palladium charcoal (0.79 g) in a mixed solvent of ethanol (80 ml) and water (8 ml) was stirred for 1.5 hours at 60° C. under nitrogen atmosphere. The reaction mixture was cooled to room temperature and filtered through Celite® pad. The filtrate was concentrated under reduced pressure and the residue was dissolved into ethyl acetate. The solution was washed with water and brine successively, dried over magnesium sulfate, and evaporated under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-fluorobenzyl)piperazine (6.04 g) as an oil.

reactant | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-fluorobenzyl)piperazine | 7.92 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=C(C=C1)F | C27H23F7N2O
reactant | ammonium formate | 2.38 g | C(=O)[O-].[NH4+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 0.79 g | [Pd] | Pd
solvent | water | 8 ml | O | H2O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-fluorobenzyl)piperazine | 6.04 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC=C(C=C2)F)C=C(C1)C(F)(F)F)(F)F | C20H17F7N2O
